US08357688B2
To a mixture of 100 mg of methyl 3-chloro-2-hydrazinoquinoxaline-6-carboxylate, 57 mg of tetrahydro-2H-pyran-4-carboxylic acid, 0.16 mL of diisopropylethylamine, and 1.0 mL of N,N-dimethylformamide was added 203 mg of bromo(tripyrrolidin-1-yl)phosphonium hexafluorophosphate, followed by stirring at room temperature overnight. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to obtain 144 mg of methyl 3-chloro-2-[2-(tetrahydro-2H-pyran-4-ylcarbonyl)hydrazino]quinoxaline-6-carboxylate.

reactant | methyl 3-chloro-2-hydrazinoquinoxaline-6-carboxylate | 100 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)NN | C10H9ClN4O2
reactant | tetrahydro-2H-pyran-4-carboxylic acid | 57 mg | O1CCC(CC1)C(=O)O | C6H10O3
reactant | diisopropylethylamine | 0.16 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromo(tripyrrolidin-1-yl)phosphonium hexafluorophosphate | 203 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | methyl 3-chloro-2-[2-(tetrahydro-2H-pyran-4-ylcarbonyl)hydrazino]quinoxaline-6-carboxylate | 144 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)NNC(=O)C1CCOCC1 | C16H17ClN4O4
